US07547691B2
(B). Preparation of 4-hydroxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester
4-Methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.48 g, 5.73 mmol) is dissolved in THF (15 mL) and cooled to 0° C. 1.0 M lithium aluminum hydride in THF (6.30 mL, 6.30 mmol) is added dropwise. After 1.25 hours the reaction is quenched with MeOH, then stirred with saturated Rochelle's salt until two layers form. The two layers are separated and the aqueous layer is treated with 5 N NaOH and extracted with diethyl ether. The organic layers are combined, concentrated, and chromatographed using silica gel, eluting with EtOAc in hexanes 0-40%, to give the title compound (1.27 g, 97% yield).

reactant | 4-Methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 5.73 mmol, 1.48 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C13H23NO4
reactant | lithium aluminum hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6.30 mmol, 6.30 mL | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 1.27 g, 97% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CO | C12H23NO3
